US04501750
Into 50 ml of tetrahydrofuran, were added 3.5 g of 2-amino-4-phenylthiazole and 2.0 g of triethylamine. The mixture was cooled to 0°--5° C. Then, 4.3 g of α-bromopropionylbromide was dropped to the solution mixture. After the completion of the dropwise addition, the solution mixture was stirred at room temperature for 1 hour. Then, the reaction mixture was concentrated under reduced pressure. The residue was taken up in chloroform and washed with water. Upon removal of chloroform, a crude reaction product was obtained. It was thereafter subjected to silica gel chromatography and then eluted with a chloroform/methyl alcohol (40:1) mixed solvent. It was then recrystallized from an ether/cyclohexane mixed solvent, thereby obtaining 4.2 g of 2-(α-bromopropionylamino)-4-phenylthiazole.

reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 2-amino-4-phenylthiazole | 3.5 g | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | α-bromopropionylbromide | 4.3 g | BrC(C(=O)Br)C | C3H4Br2O
solvent | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
product | 2-(α-bromopropionylamino)-4-phenylthiazole | 4.2 g | BrC(C(=O)NC=1SC=C(N1)C1=CC=CC=C1)C | C12H11BrN2OS
